US08357711B2
5-Oxo-bicyclo[2.2.2]octane-2-carboxylic acid methyl ester
To a cooled (−3° C.) solution of lithiumdiisopropylamide (0.9 M in methylcyclohexane, 607 mL, 546 mmol, 1.05 eq) was added a solution of cyclohex-2-enone (52.6 g, 53 mL, 520 mmol, 1.0 eq) in diethyl ether (650 mL) over 90 min. During addition, the temperature was kept below −3° C. The mixture was stirred for an additional 25 minutes before a solution of methyl acrylate (46.8 mL, 520 mmol, 1.0 eq) in diethyl ether (450 mL) was added dropwise over 60 minutes. The temperature of the mixture was kept below 0° C. overnight. The mixture was poured out in saturated solution of ammonium chloride (1.0M) and stirred for 10 min. The sticky polymer was removed by filtration (P3). The organic layer was separated and the aqueous layer was extracted with tert-butyl methyl ether (2×300 mL). The combined organic layers were dried over sodium sulfate and concentrated. The title compound was isolated by distillation (0.001 mbar at 120-130° C.) and was isolated as a slightly yellow oil (39.8 g, 220 mmol, 42%).

reactant | lithiumdiisopropylamide | 546 mmol, 0.9 M, 607 mL, 1.05 eq | C(C)(C)[N-]C(C)C.[Li+]
reactant | cyclohex-2-enone | 520 mmol, 53 mL, 52.6 g, 1.0 eq | C1(C=CCCC1)=O | C6H8O
reactant | methyl acrylate | 520 mmol, 46.8 mL, 1.0 eq | C(C=C)(=O)OC | C4H6O2
reactant | ammonium chloride | 1.0M | [Cl-].[NH4+]
solvent | diethyl ether | 650 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 450 mL | C(C)OCC | C4H10O
product | 5-Oxo-bicyclo[2.2.2]octane-2-carboxylic acid methyl ester | COC(=O)C1C2CC(C(C1)CC2)=O | C10H14O3
